US06355799B1
3-(4-Chloro-6-fluoro-3-methyl-2-phenoxycarbonylaminophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione
3-(4-Chloro-6-fluoro-2-isocyanato-3-methylphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (1.4 mmol) and triethylamine (0.14 g, 1.4 mmol) were dissolved in toluene (15 ml) and the solution was treated with phenol (0.13 g, 1.4 mmol). Solution was stirred for 0.3 hr at ambient temperature and water was added. Product was extracted with ethyl acetate. Removal of the solvent followed by column chromatography on silica gel (eluent, methylene chloride) afforded the title compound (0.3 g).

reactant | 3-(4-Chloro-6-fluoro-2-isocyanato-3-methylphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 1.4 mmol | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C=O)C | C14H8ClF4N3O3
reactant | triethylamine | 1.4 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
reactant | phenol | 1.4 mmol, 0.13 g | C1(=CC=CC=C1)O | C6H6O
reactant | water | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chloro-6-fluoro-3-methyl-2-phenoxycarbonylaminophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.3 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NC(=O)OC1=CC=CC=C1)C | C20H14ClF4N3O4
